US06211199B1
50.1 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 1.6 using 1-(3,4,5-trimethoxybenzoyl)-3-(2-methanesulfonyloxyethyl)-3-phenylpyrrolidine (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt) and (1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-methanesulfonyloxyethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCOS(=O)(=O)C)C=C(C1OC)OC | C23H29NO7S
reactant | (1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | OCC1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C18H22N4O2
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CC=2OC(=CC2)CO)C=CC=C3)C=C(C1OC)OC | C40H47N5O6
